US03998834
A mixture of 3.54 parts of α-methylphenethyl alcohol, methanesulfonate ester, 4.6 parts of ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate, 3.97 parts of sodium carbonate and 160 parts of 4-methyl-2-pentanone is stirred and refluxed for 16 hours. The reaction mixture is cooled and filtered. The filtrate is washed twice with 200 parts of water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The first fraction is collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The whole is evaporated and the residual salt is crystallized from 80 parts of 4-methyl-2-pentanone. The product is filtered off and dried in vacuo at 120° C, yielding ethyl 1-(1-methyl-2-phenylethyl)-4[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate; m.p. 201.8° C.

reactant | α-methylphenethyl alcohol | CC(CC1=CC=CC=C1)O | C9H12O
reactant | ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C17H24N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | ethyl 1-(1-methyl-2-phenylethyl)-4[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.CC(CC1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)N(C1=CC=CC=C1)C(CC)=O | InChI=1S/C26H34N2O3.C2H2O4/c1-4-24(29)28(23-14-10-7-11-15-23)26(25(30)31-5-2)16-18-27(19-17-26)21(3)20-22-12-8-6-9-13-22;3-1(4)2(5)6/h6-15,21H,4-5,16-20H2,1-3H3;(H,3,4)(H,5,6)
